US08629270B2
(4aR,7aR)-6-(5-Fluoropyrimidin-2-yl)-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine hydrochloride
A solution of (4aR,7aR)-6-(5-fluoropyrimidin-2-yl)-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine (3.8 g, 11.33 mmol) in a solution of methyl-t-butyl ether (50 mL) and ethyl acetate (10 mL) is treated with hydrogen chloride (1 M in diethyl ether) (13.6 mL, 13.6 mmol). The mixture is stirred for 10 minutes, concentrated and the product is dried under vacuum to give the title compound (4.1 g, 97%). ES/MS (m/e): 336 (M+H). Chiral analysis: (Column: Chiralpak AS (5 u), C18 4.6×100 mm; eluent: 25% methanol with 0.2% dimethylethylamine) in CO2; flow 2.5 mL/min at UV 220 nm) to confirm the title compound, (>99% ee, Rt=1.44 min).

reactant | (4aR,7aR)-6-(5-fluoropyrimidin-2-yl)-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine | 11.33 mmol, 3.8 g | FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)N)C=1SC=CC1 | C14H14FN5S2
reactant | methyl-t-butyl ether | 50 mL | COC(C)(C)C | C5H12O
reactant | hydrogen chloride | 13.6 mmol, 1 M, 13.6 mL | Cl | ClH
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | (4aR,7aR)-6-(5-Fluoropyrimidin-2-yl)-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine hydrochloride | 4.1 g, 97% | Cl.FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)N)C=1SC=CC1 | InChI=1S/C14H14FN5S2.ClH/c15-10-4-17-13(18-5-10)20-6-9-7-22-12(16)19-14(9,8-20)11-2-1-3-21-11;/h1-5,9H,6-8H2,(H2,16,19);1H/t9-,14-;/m0./s1
